US07767827B2
3-Hydroxy-4,5-dimethylpyrazole and di-tert-butyl dicarbonate were reacted in the same manner as in Example 1 to give a white solid of tert-butyl 3-hydroxy-4,5-dimethylpyrazole-1-carboxylate. Melting point: 262˜264° C. (decomposed), 1H-NMR (CDCl3, TMS, ppm): δ1.63 (s, 9H), 1.87 (s, 3H), 2.40 (s, 3H), 12.50 (brs, 1H).

reactant | 3-Hydroxy-4,5-dimethylpyrazole | OC1=NNC(=C1C)C | C5H8N2O
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 3-hydroxy-4,5-dimethylpyrazole-1-carboxylate | OC1=NN(C(=C1C)C)C(=O)OC(C)(C)C | C10H16N2O3
